US07897595B2
A mixture of 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol (137 mg, 342 μmol), DMF (100 μl) and POCl3 (5 ml) was heated at 100° C. for 16 h. The reaction mixture was concentrated in vacuo and purified by column chromatography to furnish 57.0 mg (40%) of 2-chloro-3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. MS (ESI) m/z 419.1/421.1. A mixture of 2-chloro-3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine (58.0 mg, 139 μmol), K2CO3 (50 mg) and MeOH (10 ml) was heated for 1 h at 60° C. The reaction mixture was concentrated in vacuo and purified by column chromatography furnishing 37.7 mg (84%) of 2-chloro-3-iodo-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine. 1H-NMR (CDCl3) δ 7.86 (s, 1H), 3.13 (m, 2H), 3.07-2.92 (m, 4H), 2.75 (dd, 1H), 1.33 (d, 3H) ppm.

reactant | 3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-ol | 342 μmol, 137 mg | IC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1O | C12H12F3IN2O2
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DMF | 100 μl | CN(C)C=O | C3H7NO
product | 2-chloro-3-iodo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | 57.0 mg, 40% | ClC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)I | C12H11ClF3IN2O
